US07511038B2
6-(3-Chlorophenyl)-2H-pyridazin-3-one
A stirred mixture of glyoxylic acid (4.0 g, 0.054 moles) and 3-chloroacetophenone (25.06 g, 0.162 moles) was heated at 105° C. for 2 hours, then allowed to cool to 40° C. and water (60 ml) was added followed by conc. aq. NH4OH to pH 8. The mixture was extracted with methylene chloride (3×25 ml) to recover the 3-chloroacetophenone. The ammoniacal solution was stirred with hydrazine monohydrate (2.70 g, 0.054 moles) and heated under reflux for 8 hours. The resultant solid was collected by filtration and washed with water to yield the title compound (49%).

reactant | glyoxylic acid | 0.054 moles, 4.0 g | C(C=O)(=O)O | C2H2O3
reactant | 3-chloroacetophenone | 0.162 moles, 25.06 g | CC(=O)C1=CC(=CC=C1)Cl | C8H7ClO
reactant | NH4OH | [NH4+].[OH-]
reactant | hydrazine monohydrate | 0.054 moles, 2.70 g | O.NN
solvent | water | 60 ml | O | H2O
product | 6-(3-Chlorophenyl)-2H-pyridazin-3-one | 49% | ClC=1C=C(C=CC1)C=1C=CC(NN1)=O | C10H7ClN2O
